US04612376
To a solution of 6-(3,4-dimethoxyphenyl)-3-methyl-2,4(1H,3H)-pyrimidinedione (3.0 g) in N,N-dimethylformamide (30 ml) was added sodium hydride (60% in oil, 0.5 g). The mixture was heated at 60° C. with stirring for 20 minutes and cooled to 0° C. To the mixture was added n-propyl iodide (15 ml) with stirring, which was continued at 0° C. for 2 hours and at ambient temperature for 3 hours. After addition of water, the reaction mixture was extracted with ethyl acetate. The organic extract was washed with water, dried over magnesium sulfate and evaporated under reduced pressure. The residue was triturated with diisopropyl ether and the resulting precipitates were collected by filtration to give 6-(3,4-dimethoxyphenyl)-3-methyl-2-propoxy-4(3H)-pyrimidinone (1.15 g) as by-product.

reactant | 6-(3,4-dimethoxyphenyl)-3-methyl-2,4(1H,3H)-pyrimidinedione | 3.0 g | COC=1C=C(C=CC1OC)C1=CC(N(C(N1)=O)C)=O | C13H14N2O4
reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | n-propyl iodide | 15 ml | C(CC)I | C3H7I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 6-(3,4-dimethoxyphenyl)-3-methyl-2-propoxy-4(3H)-pyrimidinone | 1.15 g | COC=1C=C(C=CC1OC)C1=CC(N(C(=N1)OCCC)C)=O | C16H20N2O4
